US07091353B2
1,8-Diazabicyclo[5,4,0]undec-7-ene (0.7 g, 4.62 mmol) was added to a stirred suspension of 3-[4-(aminomethyl)-1-oxoisoindolin-2-yl]piperidine-2,6-dione hydrochloride (0.65 g, 2.10 mmol) in acetonitrile (50 mL). After stirring for 30 min, cyclopropanecarbonyl chloride (0.24 g, 2.31 mmol) was added. The mixture was stirred at room temperature for 17 hours. The mixture was filtered and the solid was recrystallized from methanol (100 mL) to afford N-{[2-(2,6-dioxo(3-piperidyl))-1-oxoisoindolin-4-yl]methyl}cyclopropylcarboxamide (0.36 g, 50%) as a white solid: mp 262–264° C.; 1H NMR (DMSO-d6) δ 11.02 (s, 1H), 8.63 (t, J=5.7 Hz, 1H), 7.65–7.47 (m, 3H), 5.18–5.11 (dd, J=5.0 and 13.2 Hz, 1H), 4.46 (d=17.3 Hz, 1H), 4.38–4.31 (m, 3H), 3.00–2.85 (m, 1H), 2.65–2.30 (m, 2H), 2.04–1.99 (m, 1H), 1.64–1.54 (m, 1H), 0.69–0.65 (m, 4H); 13C NMR (DMSO-d6) δ 172.82, 172.69, 170.96, 168.03, 140.08, 134.76, 131.66, 130.70, 128.30, 121.64, 51.54, 46.15, 31.16, 22.59, 13.47, 6.27; Anal. Calcd. For C18H19N3O4: C, 63.33; H, 5.61; N, 12.31. Found: C, 62.97; H, 5.55; N, 12.33.

reactant | 1,8-Diazabicyclo[5,4,0]undec-7-ene | 4.62 mmol, 0.7 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 3-[4-(aminomethyl)-1-oxoisoindolin-2-yl]piperidine-2,6-dione hydrochloride | 2.10 mmol, 0.65 g | Cl.NCC1=C2CN(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O
reactant | cyclopropanecarbonyl chloride | 2.31 mmol, 0.24 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-{[2-(2,6-dioxo(3-piperidyl))-1-oxoisoindolin-4-yl]methyl}cyclopropylcarboxamide | 0.36 g, 50% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1)CNC(=O)C1CC1)=O)=O | C18H19N3O4
